US09034879B2
Int. C1: Methyl 3-amino-6-methoxy-5-(trifluoromethyl)picolinate
3-Amino-6-methoxy-5-trifluoromethyl-pyridine-2-carboxylic acid (Int. B) 5.5 g, 23.29 mmol) was dissolved in MeOH (90 ml). H2SO4 (6.21 ml, 116 mmol) was added dropwise and the solution was heated to reflux for 4 hours. The reaction mixture was reduced in vacuo to approx. 15 ml and water (15 ml) was added. The pH was adjusted to pH 9 by careful addition of solid NaHCO3. Water (100 ml) was added and the mixture was extracted with DCM. The combined organic extracts were concentrated in vacuo to afford the title compound.

reactant | 3-Amino-6-methoxy-5-trifluoromethyl-pyridine-2-carboxylic acid | 23.29 mmol, 5.5 g | NC=1C(=NC(=C(C1)C(F)(F)F)OC)C(=O)O | C8H7F3N2O3
reactant | H2SO4 | 116 mmol, 6.21 ml | OS(=O)(=O)O | H2O4S
reactant | water | 15 ml | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | Water | 100 ml | O | H2O
solvent | MeOH | 90 ml | CO | CH4O
product | Methyl 3-amino-6-methoxy-5-(trifluoromethyl)picolinate | NC=1C(=NC(=C(C1)C(F)(F)F)OC)C(=O)OC | C9H9F3N2O3
